US05656648
N-[4-(4-Trifluoromethyl-2,6-dimethoxyphenyl)-2-thiazolyl]-1-(tert-butoxycarbonylmethyl)indole-2-carboxamide (method I).
A mixture of 0.609 g of 2-amino-4-(4-trifluoromethyl-2,6-dimethoxyphenyl)thiazole, 0.606 g of N-(tert-butoxycarbonylmethyl)-2-indolecarboxylic acid, 1.062 g of BOP and 0.243 g of triethylamine in 30 ml of DCM is stirred at r.t. for 24 hours. 50 ml of water are then added, and the organic phase is separated after settling has taken place, dried over sodium sulphate and evaporated under vacuum. The residue is chromatographed on silica H, eluting with a DCM/AcOEt (100:5; v/v) mixture. 0.79 g of the expected product is obtained after crystallization in ether, m.p.=214°-216° C.

reactant | 2-amino-4-(4-trifluoromethyl-2,6-dimethoxyphenyl)thiazole | 0.609 g | NC=1SC=C(N1)C1=C(C=C(C=C1OC)C(F)(F)F)OC | C12H11F3N2O2S
reactant | N-(tert-butoxycarbonylmethyl)-2-indolecarboxylic acid | 0.606 g | C(C)(C)(C)OC(=O)CN1C(=CC2=CC=CC=C12)C(=O)O | C15H17NO4
reactant | BOP | 1.062 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | triethylamine | 0.243 g | C(C)N(CC)CC | C6H15N
solvent | DCM | 30 ml | C(Cl)Cl | CH2Cl2
solvent | water | 50 ml | O | H2O
product | N-[4-(4-Trifluoromethyl-2,6-dimethoxyphenyl)-2-thiazolyl]-1-(tert-butoxycarbonylmethyl)indole-2-carboxamide | 0.79 g | FC(C1=CC(=C(C(=C1)OC)C=1N=C(SC1)NC(=O)C=1N(C2=CC=CC=C2C1)CC(=O)OC(C)(C)C)OC)(F)F | C27H26F3N3O5S
